US04145546
5-(3,4-Dichlorobenzyl)-2-methylthio-4-pyrimidone (2.1 g) was reacted with 2-(5-methyl-4-imidazolylmethylthio)ethylamine (1.2 g) by the procedure of Example 3 to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(3,4-dichlorobenzyl)-4-pyrimidone dihydrochloride, m.p. 235.5°-238.5° (aqueous methanol)

reactant | 5-(3,4-Dichlorobenzyl)-2-methylthio-4-pyrimidone | 2.1 g | ClC=1C=C(CC=2C(NC(=NC2)SC)=O)C=CC1Cl | C12H10Cl2N2OS
reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | 1.2 g | CC1=C(N=CN1)CSCCN | C7H13N3S
solvent | methanol | CO | CH4O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(3,4-dichlorobenzyl)-4-pyrimidone dihydrochloride | Cl.Cl.CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(=C(C=C1)Cl)Cl | InChI=1S/C18H19Cl2N5OS.2ClH/c1-11-16(24-10-23-11)9-27-5-4-21-18-22-8-13(17(26)25-18)6-12-2-3-14(19)15(20)7-12;;/h2-3,7-8,10H,4-6,9H2,1H3,(H,23,24)(H2,21,22,25,26);2*1H
